US07393852B2
Preparation VII—6-bromo-1,2,3,4-tetrahydro-naphthalen-2-ylamine
A solution of BH3-THF complex (1 M) (35.9 mL, 35.9 mmol) was added drop-wise to a stirred solution of 6-bromo-3,4-dihydro-1H-naphthalen-2-one oxime (3.450 g, 14.37 mmol) in THF (125 mL) at 0° C. The mixture was warmed to RT and to reflux for 24 h. The reaction was cooled to RT and 1 N aqueous HCl was added carefully until the mixture was acidic and the system was stirred until no further gas was evolved. The solution was made basic by the addition of NaOH and the aqueous layer was extracted with EtOAc. The combined organics were dried over MgSO4 and concentrated in vacuo to afford the crude title compound, which was purified by flash column chromatography to yield the title compound.

reactant | 6-bromo-3,4-dihydro-1H-naphthalen-2-one oxime | 14.37 mmol, 3.450 g | BrC=1C=C2CCC(CC2=CC1)=NO | C10H10BrNO
reactant | HCl | 1 N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 6-bromo-1,2,3,4-tetrahydro-naphthalen-2-ylamine | BrC=1C=C2CCC(CC2=CC1)N | C10H12BrN
